US08871797B2
5-(2-Methoxy-5-nitro-phenyl)-1-methyl-1H-pyrazole (300.0 mg, 1.29 mmol) was dissolved in ACN (15 ml) in a polypropylene 20 mL scintillation vial. To this solution, Selectfluor (913.9 mg, 2.58 mmol) was added and the mixture was degassed with argon and heated to 80° C. for 6 hours. The solvent was removed under reduced pressure and the residue was dissolved in 50 mL EtOAc and 30 mL 3N HCl. The organic layer was separated and the aqueous layer was extracted with EtOAc (2×50 ml). The organic layers were combined, dried over Na2SO4, filtered, and the solvent removed under reduced pressure. The residue was then purified by flash chromatography (Biotage SiO2, Hexanes (0.01% TEA)/EtOAc gradient elution) to afford 108 mg (33%) of 4-fluoro-5-(2-methoxy-5-nitro-phenyl)-1-methyl-1H-pyrazole as a white solid. LCMS m/z (%)=252 (M+H, 100). 1H NMR (400 MHz, CDCl3) δ: 8.39 (d, J=9.2 Hz, 1H), 8.22 (s, 1H), 7.44 (d, JH,F=4.4 Hz, 1H), 7.12 (d, J=9.2 Hz, 1H) 3.98 (s, 3H), 3.77 (s, 3H). 19F NMR (376 MHz, CDCl3) δ: −175.50 (d, JH,F=5.3 Hz, 1F).

reactant | 5-(2-Methoxy-5-nitro-phenyl)-1-methyl-1H-pyrazole | 1.29 mmol, 300.0 mg | COC1=C(C=C(C=C1)[N+](=O)[O-])C1=CC=NN1C | C11H11N3O3
reactant | Selectfluor | 2.58 mmol, 913.9 mg | [B-](F)(F)(F)F.[B-](F)(F)(F)F.C1C[N+]2(CC[N+]1(CC2)CCl)F
solvent | ACN | 15 ml | C(C)#N | C2H3N
solvent | polypropylene | 20 mL | C(C(C)[*:2])[*:1]
product | 4-fluoro-5-(2-methoxy-5-nitro-phenyl)-1-methyl-1H-pyrazole | 108 mg, 33% | FC=1C=NN(C1C1=C(C=CC(=C1)[N+](=O)[O-])OC)C | C11H10FN3O3
